US04255575
A solution of 15.0 g (0.0522 mol) of methyl 5-(bromoacetyl)-2-methoxybenzoate in 500 ml of anhydrous tetrahydrofuran is added dropwise over 2-4 hours to a solution of 8.48 g (0.0522 mol) of 1-phenylpiperazine and 5.28 g (0.0522 mol) of triethylamine in 100 ml of tetrahydrofuran. The mixture is stirred at room temperature under exclusion of moisture overnight. The precipitated triethylamine hydrobromide is removed by filtration and the filtrate is evaporated to dryness. Addition of 2 equivalents of methanolic HCl and precipitation by addition of ethyl ether yields crude 2-methoxy-5-[2-(4-phenyl-1-piperazinyl)acetyl]benzoate hydrochloride (21.0 g) that can be used without further purification.

reactant | methyl 5-(bromoacetyl)-2-methoxybenzoate | 0.0522 mol, 15.0 g | BrCC(=O)C=1C=CC(=C(C(=O)OC)C1)OC | C11H11BrO4
reactant | 1-phenylpiperazine | 0.0522 mol, 8.48 g | C1(=CC=CC=C1)N1CCNCC1 | C10H14N2
reactant | triethylamine | 0.0522 mol, 5.28 g | C(C)N(CC)CC | C6H15N
reactant | HCl | 2 equivalents | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | ethyl ether | C(C)OCC | C4H10O
product | 2-methoxy-5-[2-(4-phenyl-1-piperazinyl)acetyl]benzoate hydrochloride | 21.0 g | Cl.COC1=C(C(=O)O)C=C(C=C1)C(CN1CCN(CC1)C1=CC=CC=C1)=O | InChI=1S/C20H22N2O4.ClH/c1-26-19-8-7-15(13-17(19)20(24)25)18(23)14-21-9-11-22(12-10-21)16-5-3-2-4-6-16;/h2-8,13H,9-12,14H2,1H3,(H,24,25);1H
